US07037727B1
After melting 3.82 g of morphine in 190 ml of Chloroform, 20.9 g of methylchloroformate and 16.0 g of sodium hydrogencarbonate are added; then the thus obtained mixture is refluxed for 8 hours. Non-organic material is filtered from the reacted material; the filtered material is subjected to a dehydration with the aid of anhydrous sodium sulfate; and a solvent medium is evaporated under a reduced pressure to obtain a residue thereof having a light yellow color and a viscosity. Into the thus obtained residue, 11.4 ml of 97% hydrazine hydrate is added, and then 15.2 ml of 64% hydrazine hydrate is further added; then the residue with the hydrazine hydrate is refluxed for 12 hours to deposit crystal. The thus deposited crystal is washed with water, acetone and chloroform to obtain 2.81 g of normorphine. Whether the thus obtained substance is a desired normorphine is checked by a nuclear magnetic resonance (NMR) method.

reactant | morphine | 3.82 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | methylchloroformate | 20.9 g | COC(=O)Cl | C2H3ClO2
reactant | sodium hydrogencarbonate | 16.0 g | C(O)([O-])=O.[Na+]
reactant | hydrazine hydrate | 11.4 ml | O.NN
reactant | hydrazine hydrate | 15.2 ml | O.NN
solvent | Chloroform | 190 ml | C(Cl)(Cl)Cl | CHCl3
product | normorphine | 2.81 g | C1=CC(=C2C3=C1C[C@@H]4[C@H]5[C@]3(CCN4)[C@@H](O2)[C@H](C=C5)O)O | C16H17NO3
